* BSIM3SOI-FD (Full Depletion) NMOS operating point.
* ngspice: NMOS level=11, 4 terminals (D G S E).
Vdd vdd 0 DC 1.8
Vg g 0 DC 1.0
Vb body 0 DC 0
Rd vdd d 10k
M1 d g 0 body nsoifd W=10u L=0.18u
.model nsoifd NMOS(LEVEL=11 VERSION=2 TNOM=27 TOX=4.1e-9 VTH0=0.35 K1=0.53 K2=-0.06 KB1=1 VSAT=1.5e5 U0=280 RDSW=200)
.op
.end
